US08217066B2
Step 1: 1-(4′-{4-[3-(2-Chloro-phenyl)-1-methyl-propylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) as the catalyst and using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[3-(2-chloro-phenyl)-1-methyl-propyl]-amine and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[3-(2-chloro-phenyl)-1-methyl-propyl]-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CCC1=C(C=CC=C1)Cl)C | C20H20BrClN2O
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-(4′-{4-[3-(2-Chloro-phenyl)-1-methyl-propylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CCC1=C(C=CC=C1)Cl)C | C32H33ClN2O3
